US07829707B2
(b) 1-(Piperidin-4-ylmethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
Ethoxycarbonyl isothiocyanate (0.058 g, 0.44 mmol) was added to a stirred solution of 4-[(2-(ethoxycarbonyl)-1H-pyrrol-3-ylamino)-methyl]piperidine-1-carboxylic acid tert-butyl ester (0.156 g, 0.44 mmol) in CH2Cl2 (2 mL) and the mixture was stirred at r.t. for 1 h. The solvent was removed in vacuo and the residue was taken up in ethanol (1 mL) containing sodium (0.015 g, 0.66 mmol). The resulting mixture was heated in a microwave reactor at 120° C. for 10 minutes. 6M HCl (0.5 mL) was added and the reaction mixture was heated again in the microwave at 100° C. for 3 minutes. The pH was adjusted to neutral pH with 2M HCl and the solution was concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (0.038 g, 14%) as a white solid.

reactant | Ethoxycarbonyl isothiocyanate | 0.44 mmol, 0.058 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | 4-[(2-(ethoxycarbonyl)-1H-pyrrol-3-ylamino)-methyl]piperidine-1-carboxylic acid tert-butyl ester | 0.44 mmol, 0.156 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC1=C(NC=C1)C(=O)OCC | C18H29N3O4
reactant | sodium | 0.66 mmol, 0.015 g | [Na] | Na
reactant | HCl | 6M, 0.5 mL | Cl | ClH
reactant | HCl | 2M | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(Piperidin-4-ylmethyl)-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 0.038 g, 14% | N1CCC(CC1)CN1C(NC(C2=C1C=CN2)=O)=S | C12H16N4OS
